US05280025
(5) Synthesis of 4,5-dichloro-6-(1-hydroxyethyl)pyrimidine (compound (II-7))
In 50 ml of tetrahydrofuran was dissolved 4.0 g of 6-(1-acetoxyethyl)-4,5-dichloropyrimidine, and to the mixture was slowly added dropwise 30 ml of an 1N-sodium hydroxide aqueous solution under stirring. After the dropwise addition, the mixture was further stirred for 1 hour at room temperature to complete the reaction.

reactant | 6-(1-acetoxyethyl)-4,5-dichloropyrimidine | 4.0 g | C(C)(=O)OC(C)C1=C(C(=NC=N1)Cl)Cl | C8H8Cl2N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4,5-dichloro-6-(1-hydroxyethyl)pyrimidine | ClC1=NC=NC(=C1Cl)C(C)O | C6H6Cl2N2O
